US06159693
The following additions were made to each reaction: 2 μl PRPP, 2 μl PRPP Synthetase, and 20 μl PRPP Synthetase buffer. The reactions proceeded at 37° C. for 28 min at which time the reactions were transferred to 100 μl LAR containing 2 μl ADP and 2 μl NDPK. This second reaction was allowed to proceed at room temperature for 20 min. The amount of ATP produced was measured by the addition of 10 ng of luciferase followed by measuring light output with a luminometer. The data is presented in Table 30.

reactant | ADP | 2 μl | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H15N5O10P2
solvent | PRPP | 20 μl | C([C@@H]1[C@H]([C@H]([C@H](O1)OP(=O)(O)OP(=O)(O)O)O)O)OP(=O)(O)O | C5H13O14P3
solvent | PRPP | 2 μl | C([C@@H]1[C@H]([C@H]([C@H](O1)OP(=O)(O)OP(=O)(O)O)O)O)OP(=O)(O)O | C5H13O14P3
solvent | PRPP | 2 μl | C([C@@H]1[C@H]([C@H]([C@H](O1)OP(=O)(O)OP(=O)(O)O)O)O)OP(=O)(O)O | C5H13O14P3
product | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
